US06548506B2
A suspension of 1.5 g of ethyl 1-cyclopropyl-7,9-difluoro-8-(4-furfurylpiperazin-1-yl)-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylate was heated, with stirring, at a temperature around 80° C. for approximately 1 hour 30 in 15 cm3 of ethanol and 14 cm3 of 1 N potassium hydroxide solution, 32 cm3 of 5% acetic acid were added at this same temperature and the suspension was stirred for 20 minutes. After recrystallizing from a mixture of 15 cm3 of dimethylformamide and 15 cm3 of ethanol, 0.7 g of 1-cyclopropyl-7,9-difluoro-8-(4-furfurylpiperazin-1-yl)-4-oxo-1,4-dihydrobenzo[b][1,8]-naphthyridine-3-carboxylic acid was obtained in the form of a yellow solid melting at about 241° C.

reactant | ethyl 1-cyclopropyl-7,9-difluoro-8-(4-furfurylpiperazin-1-yl)-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylate | 1.5 g | C1(CC1)N1C=C(C(C=2C=C3C(=NC12)C(=C(C(=C3)F)N3CCN(CC3)CC3=CC=CO3)F)=O)C(=O)OCC | C27H26F2N4O4
reactant | acetic acid | 32 cm3 | C(C)(=O)O | C2H4O2
solvent | ethanol | 15 cm3 | C(C)O | C2H6O
solvent | potassium hydroxide | 1 N, 14 cm3 | [OH-].[K+]
product | 1-cyclopropyl-7,9-difluoro-8-(4-furfurylpiperazin-1-yl)-4-oxo-1,4-dihydrobenzo[b][1,8]-naphthyridine-3-carboxylic acid | 0.7 g | C1(CC1)N1C=C(C(C=2C=C3C(=NC12)C(=C(C(=C3)F)N3CCN(CC3)CC3=CC=CO3)F)=O)C(=O)O | C25H22F2N4O4
